US07750003B2
Phenyl (4-{4-[1-methyl-1-(methylsulfonyl)ethyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl}phenyl)carbamate
(4-{4-[1-Methyl-1-(methylsulfonyl)ethyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl}phenyl)amine (3.6 g, 8.77 mmol) was dissolved in dioxane (20 mL). Sodium bicarbonate (1.1 g, 13.15 mmol) was added, followed by phenyl chloroformate (1.1 mL, 8.77 mmol) and the reaction stirred at room temperature for 2 hours. The solvent was removed in vacuo, and the resultant oil partitioned between 20 mL DCM and 20 mL water. The organic phase was dried over magnesium sulphate, filtered and concentrated in vacuo. The cream solid obtained was chromatographed on silica, eluting with 0-50% ethyl acetate in DCM, to give the desired material as a white solid (2 g).

reactant | (4-{4-[1-Methyl-1-(methylsulfonyl)ethyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl}phenyl)amine | 8.77 mmol, 3.6 g | CC(C)(S(=O)(=O)C)C1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(C=C1)N | C19H26N4O3S
reactant | Sodium bicarbonate | 13.15 mmol, 1.1 g | C([O-])(O)=O.[Na+]
reactant | phenyl chloroformate | 8.77 mmol, 1.1 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | Phenyl (4-{4-[1-methyl-1-(methylsulfonyl)ethyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl}phenyl)carbamate | 2 g | CC(C)(S(=O)(=O)C)C1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C26H30N4O5S
